MM8 (net9 net9 VSS VSS) nmos4
MM7 (VOUT1 net9 VSS VSS) nmos4
MM3 (net20 VSS net16 VSS) nmos4
MM0 (net11 net23 net16 VSS) nmos4
MM4 (net16 net1005 VSS VSS) nmos4
MM6 (net9 net11 VDD VDD) pmos4
MM5 (VOUT1 net20 VDD VDD) pmos4
MM1 (net20 net20 VDD VDD) pmos4
MM2 (net11 net11 VDD VDD) pmos4
MM0 (VB1 net1005 VSS VSS) nmos4
MM8 (net1005 net1005 VSS VSS) nmos4
MM3 (VB1 VB1 VDD VDD) pmos4
MM10 (net1005 net1006 VDD VDD) pmos4
MM3 (net1006 net1006 VDD VDD) pmos4
MM1 (VB2 net1006 VDD VDD) pmos4
RR0 (net15 VSS) resistor
MM0 (VB2 VB2 VSS VSS) nmos4
MM2 (net1006 VB2 net15 VSS) nmos4
M14 (VIN1 VCLK1 net21 VSS) nmos4
M15 (net22 VCLK2 net23 VSS) nmos4
M13 (net22 VCLK1 VSS VSS) nmos4
M12 (net21 VCLK2 VSS VSS) nmos4
C1 (net23 VOUT1) capacitor
C0 (net22 net21) capacitor